US05428162
7.5 g (50 mmol) of 2,3-epoxypropyl phenyl ether (phenyl glycidyl ether) are added to a suspension of 10.4 g (50 mmol) of 4-hydroxymandelic acid sodium salt monohydrate, and 300 mg (5.0 mmol) of potassium hydroxide in 25 ml of methanol, and the mixture is refluxed for 8 hours. The homogeneous reaction mixture is then diluted with 300 ml of water, acidified with 25 ml of concentrated hydrochloric acid and extracted three times with dichloromethane. The organic phases are washed with water, combined, dried over magnesium sulfate and concentrated on a vacuum rotary evaporator to give 8.4 g (53%) of 4-(2-hydroxy-3-phenoxypropoxy)mandelic acid as a yellowish resin (compound (204), Table 2).

reactant | 2,3-epoxypropyl phenyl ether | 50 mmol, 7.5 g | C1(=CC=CC=C1)OCC1CO1 | C9H10O2
reactant | 4-hydroxymandelic acid sodium salt monohydrate | 50 mmol, 10.4 g | O.[Na+].OC1=CC=C(C(C(=O)[O-])O)C=C1
reactant | potassium hydroxide | 5.0 mmol, 300 mg | [OH-].[K+]
reactant | hydrochloric acid | 25 ml | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
solvent | water | 300 ml | O | H2O
product | 4-(2-hydroxy-3-phenoxypropoxy)mandelic acid | 8.4 g, 53% | OC(COC1=CC=C(C(C(=O)O)O)C=C1)COC1=CC=CC=C1 | C17H18O6
